US07696223B2
e) {[2-(4-Fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 2-(4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (81 mg, 0.25 mmol) and glycine (190 mg, 5.07 mmol) in 0.5 M sodium methoxide/methanol (4.0 mL) was heated at 120° C. using a CEM microwave reactor for 1H before it was cooled to room temperature and concentrated in vacuo. It was dissolved in water (50 mL) and extracted twice with dichloromethane. The remaining aqueous layer was acidified to pH=3 with 1N HCl (3 mL). The solid precipitate was filtered, washed with water and dried in vacuo to give the title compound as a brown solid (66 mg): 1H NMR (DMSO-d6, 200 MHz): δ=13.28 (br s, 1H), 9.44 (br s, 1H), 8.91 (s, 1H), 8.21 (m, 2H), 7.45 (m, 2H), 4.03 (d, J=6.2 Hz, 2H); MS: (+) m/z 348.00 (M+1).

reactant | 2-(4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.25 mmol, 81 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=CC=C(C=C2)F)O | C15H11FN2O3S
reactant | glycine | 5.07 mmol, 190 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 4.0 mL | C[O-].[Na+].CO
product | {[2-(4-Fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 66 mg | FC1=CC=C(C=C1)C=1SC2=C(C=NC(=C2O)C(=O)NCC(=O)O)N1 | C15H10FN3O4S
